US07846959B2
A solution of 2-(4-chloro-3-nitrobenzoyl)benzoic acid (5.0 g, 16.36 mmol) was heated to reflux in 28-30% aq. ammonium hydroxide (100 mL) for 18 h. The solution was cooled to room temperature followed by addition of 6N aq. hydrochloric acid until pH to 7. The precipitated yellow solid was collected by filtration and washed with water then dried in vacuo to provide 2-[(4-amino-3-nitrophenyl)carbonyl]benzoic acid (4.60 g, 98%). MS (EI) for C14H10N2O5: 288 (MH+).

reactant | 2-(4-chloro-3-nitrobenzoyl)benzoic acid | 16.36 mmol, 5.0 g | ClC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H8ClNO5
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
product | 2-[(4-amino-3-nitrophenyl)carbonyl]benzoic acid | 4.60 g, 98% | NC1=C(C=C(C=C1)C(=O)C1=C(C(=O)O)C=CC=C1)[N+](=O)[O-] | C14H10N2O5
